US08859773B2
To a suspension of 4-((1-(tert-butoxycarbonyl)-4-carbamoylpiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid (388 mg, 0.95 mmol) in acetonitrile (20 mL) was added sodium bicarbonate (319 mg, 3.80 mmol) and bis(trifluoroacetoxy) iodosobenzene (632 mg, 1.42 mmol). The mixture was stirred 90 minutes at room temperature, diluted with 50 mL water, acidified with 1 N aqueous hydrochloric acid, and then extracted with ethyl acetate (2×50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The resulting residue was purified by flash chromatography (1-10% methanol/dichloromethane, 25 g silica gel) to yield 4-((1-(tert-butoxycarbonyl)-4-isocyanatopiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid (172 mg) as a colorless solid. −APCI (M−H) 405.4; 1H NMR (400 MHz, DMSO-d6, δ): 12.52 (br. s., 1H), 7.82 (s, 1H), 3.83 (br. s., 2H), 3.03 (s, 2H), 2.82 (br. s., 2H), 1.49 (m, 13H), 1.36 (m, 9H).

reactant | 4-((1-(tert-butoxycarbonyl)-4-carbamoylpiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid | 0.95 mmol, 388 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(N)=O)CC=1C(=NN(C1)C(C)(C)C)C(=O)O | C20H32N4O5
reactant | sodium bicarbonate | 3.80 mmol, 319 mg | C([O-])(O)=O.[Na+]
reactant | bis(trifluoroacetoxy) iodosobenzene | 1.42 mmol, 632 mg | FC(C(=O)OC=1C(=C(C=CC1)I=O)OC(C(F)(F)F)=O)(F)F | C10H3F6IO5
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 4-((1-(tert-butoxycarbonyl)-4-isocyanatopiperidin-4-yl)methyl)-1-tert-butyl-1H-pyrazole-3-carboxylic acid | 172 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(N=C=O)CC=1C(=NN(C1)C(C)(C)C)C(=O)O | C20H30N4O5
